US06933387B2
To a solution of 1.18 g (R)-8-bromo-4,7-dimethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester in 12 ml dioxane were added 0.36 g tetrakistriphenylphosphinpalladium, 1.29 g potassium carbonate and 0.39 trimethylboroxine and the mixture was heated 1 h at reflux. The reaction mixture was partitioned between water and ethyl acetate. The phases were separated and the organic phase was washed with 10% sodium bicarbonate, 10% citric acid and brine, dried over magnesium sulfate and purified by chromatography on silica gel with hexane:ethyl acetate=3:1 to yield 0.62 g (R)-4,7,8-trimethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester as slightly yellow foam. MS: (M+H)=315.4

reactant | (R)-8-bromo-4,7-dimethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 1.18 g | C(C)(C)(C)OC(=O)N1CC=2N(C=3C=C(C(=CC3C2)Br)C)[C@@H](C1)C | C18H23BrN2O2
reactant | potassium carbonate | 1.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxine | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | (R)-4,7,8-trimethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.62 g | C(C)(C)(C)OC(=O)N1CC=2N(C=3C=C(C(=CC3C2)C)C)[C@@H](C1)C | C19H26N2O2
